US05714489
a) 3-Acetylaminomethyl-2,5-dimethoxytetrahydrofuran
4.0 g of 2,5-dimethoxy-3-aminomethyltetrahydrofuran and 1.75 ml of acetyl chloride were reacted as in Example 89a. 3.7 g of impure product were obtained and were immediately reacted further.

reactant | 2,5-dimethoxy-3-aminomethyltetrahydrofuran | 4.0 g | COC1OC(CC1CN)OC | C7H15NO3
reactant | acetyl chloride | 1.75 ml | C(C)(=O)Cl | C2H3ClO
product | 3-Acetylaminomethyl-2,5-dimethoxytetrahydrofuran | 3.7 g | C(C)(=O)NCC1C(OC(C1)OC)OC | C9H17NO4
